US07696223B2
a) [(2-Cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
A mixture of [(2-bromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid (50 mg), Zn(CN)2 (9.0 mg), Zn dust (1.0 mg), Pd2(dba)3 (5.9 mg), dppf (7.1 mg) in DMA (1 mL) was heated to 120° C. for 60 min; then the mixture was cooled, diluted with DMSO and purified by C18 reverse phase chromatography to give the desired title compound (33 mg). The title compound, ESI MS (m/z): 337 (M+H)+.

reactant | [(2-bromo-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | 50 mg | BrC1=CC=2C(=CN=C(C2O)C(=O)NCC(=O)O)N1C1=CC=CC=C1 | C16H12BrN3O4
reactant | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | Zn(CN)2 | 9.0 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Zn | 1.0 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 5.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 7.1 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [(2-Cyano-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | 33 mg | C(#N)C1=CC=2C(=CN=C(C2O)C(=O)NCC(=O)O)N1C1=CC=CC=C1 | C17H12N4O4
